US04472305
Condensation of BocSarOPFP (3.43 g.) and HLeu-MetNH2 (Example 1, 2.98 g.) by the activated ester method gave BocSar-Leu-MetNH2 in 75% yield. De-t-butoxycarbonylation of BocSar-Leu-MetNH2 (3.04 g.) using hydrogen chloride in acetic acid gave HSar-Leu-MetNH2 in 100% yield.

reactant | BocSar-Leu-MetNH2 | 3.04 g | N(C)(CC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N)C(=O)OC(C)(C)C | C19H36N4O5S
reactant | hydrogen chloride | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | HSar-Leu-MetNH2 | 100% yield | N(C)CC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N | C14H28N4O3S
